US05859014
A mixture of-sodium methoxide (0.343 g, 14.9 mmol), benzylurea (1.6 g, 10.6 mmol), diethyl dimethylmalonate (1.9 g, 10 mmol) and methanol (15 mL) was heated 6 hours at reflux. The reaction mixture was concentrated and the residue was stirred with water (30 mL) at 5° C. and then hydrochloric acid was added. The solids were collected, washed with water and dried to give 1-benzyl-5,5-dimethyl-2,4,6(1H,3H,5H)-pyrimidinetrione, m.p 136°-137° C.

reactant | sodium methoxide | 14.9 mmol, 0.343 g | C[O-].[Na+]
reactant | benzylurea | 10.6 mmol, 1.6 g | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | diethyl dimethylmalonate | 10 mmol, 1.9 g | CC(C(=O)OCC)(C(=O)OCC)C | C9H16O4
solvent | methanol | 15 mL | CO | CH4O
product | 1-benzyl-5,5-dimethyl-2,4,6(1H,3H,5H)-pyrimidinetrione | C(C1=CC=CC=C1)N1C(NC(C(C1=O)(C)C)=O)=O | C13H14N2O3
